US04159329
5-(4-Chlorobenzyl)-2-methylthio-4-pyrimidone (1.2 g) was reacted with 2-(3-bromo-2-pyridylmethylthio)ethylamine (1.1 g) according to the procedure of Example 2. The reaction mixture was acidified with dilute ethanolic hydrogen chloride, evaporated to dryness and the residue recrystallised from ethanol/water to give 2-[2-(3-bromo-2-pyridylmethylthio)ethylamino]-5-(4-chlorobenzyl)-4-pyrimidone monohydrochloride, m.p. 215°-218° (decomposes).

reactant | 5-(4-Chlorobenzyl)-2-methylthio-4-pyrimidone | 1.2 g | ClC1=CC=C(CC=2C(NC(=NC2)SC)=O)C=C1 | C12H11ClN2OS
reactant | 2-(3-bromo-2-pyridylmethylthio)ethylamine | 1.1 g | BrC=1C(=NC=CC1)CSCCN | C8H11BrN2S
reactant | hydrogen chloride | Cl | ClH
product | 2-[2-(3-bromo-2-pyridylmethylthio)ethylamino]-5-(4-chlorobenzyl)-4-pyrimidone monohydrochloride | Cl.BrC=1C(=NC=CC1)CSCCNC1=NC=C(C(N1)=O)CC1=CC=C(C=C1)Cl | InChI=1S/C19H18BrClN4OS.ClH/c20-16-2-1-7-22-17(16)12-27-9-8-23-19-24-11-14(18(26)25-19)10-13-3-5-15(21)6-4-13;/h1-7,11H,8-10,12H2,(H2,23,24,25,26);1H
